US04948796
3.67 g of triphenylphosphine was added to a solution of 1.94 g of (E)-3-(3,4-dimethoxyphenyl)allyl alcohol and 3.98 g of carbon tetrabromide dissolved in 20 ml of benzene, with ice-cooling in a nitrogen atmosphere. The mixture was stirred for 1 hour at the same temperature to obtain a benzene solution of (E)-3-(3,4-dimethoxyphenyl)allyl bromide. To this solution were added 1.11 g of triethylamine and a solution of 3.15 g of 5-(piperazin-1-yl)-10,11-dihydro-5H-benzo[4,5]cyclohepta[1,2-b]pyridine dihydrate dissolved in 12 ml of benzene, with ice-cooling. The mixture was stirred for 2 hours at room temperature. To the reaction mixture was added 30 ml of water. The resulting insolubles were removed by filtration. An organic layer was separated and to the layer was added 30 ml of water. The mixture was adjusted to pH 1.0 with dilute hydrochloric acid. The aqueous layer was separated and 30 ml of ethyl acetate was added thereto. The mixture was adjusted to pH 8.0 with a 10% aqueous sodium hydroxide solution. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: n-hexane/acetone=2/1) to obtain 2.52 g of 5-[4-{(E)-3-(3,4-dimethoxyphenyl)allyl}piperazin-1-yl]-10,11-dihydo-5H-benzo[4,5]cyclohepta[1,2-b]pyridine. It was recrystallized from a mixed solvent of ethyl acetate and n-hexane to obtain 2.13 g of colorless crystals having a melting point of 135°-136° C.

reactant | triphenylphosphine | 3.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-3-(3,4-dimethoxyphenyl)allyl alcohol | 1.94 g | COC=1C=C(C=CC1OC)/C=C/CO | C11H14O3
reactant | carbon tetrabromide | 3.98 g | C(Br)(Br)(Br)Br | CBr4
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | (E)-3-(3,4-dimethoxyphenyl)allyl bromide | COC=1C=C(C=CC1OC)/C=C/CBr | C11H13BrO2
